US06514964B1
Step A: N-(3-amino(2-pyridyl))-4-[(phenylmethoxy)carbonylamino]butanamide
4-[(phenylmethoxy)carbonylamino]butanoic acid (1.1 eq) was dissolved in methylene chloride (0.2M) followed by the addition of 1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (EDCA) (1.2 eq) and triethylamine (1.5 eq). The mixture was stirred at room temperature under nitrogen for 30 mins, followed by addition of 2,3-diaminopyridine. The mixture was then stirred at room temperature for 48 hrs., quenched with saturated sodium carbonate and extracted with ether. The organic phase was concentrated in vacuo and chromatographed on silica gel. (10% MeOH/CH2Cl2). EI-MS m/z 329 (M+H)+.

reactant | 4-[(phenylmethoxy)carbonylamino]butanoic acid | 1.1 eq | C1(=CC=CC=C1)COC(=O)NCCCC(=O)O | C12H15NO4
reactant | 1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 1.2 eq | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | 2,3-diaminopyridine | NC1=NC=CC=C1N | C5H7N3
solvent | methylene chloride | 0.2M | C(Cl)Cl | CH2Cl2
product | N-(3-amino(2-pyridyl))-4-[(phenylmethoxy)carbonylamino]butanamide | NC=1C(=NC=CC1)NC(CCCNC(=O)OCC1=CC=CC=C1)=O | C17H20N4O3
